US04130562
According to the same procedure, from dimethyldisulphide and 1-(2-thiazolyl)-2-methylpropyl-mercaptan there is obtained [1-(2-thiazolyl)-2-methylpropyl]-methyl-disulphide. nD20 = 1.5770. IR (liq.): bands inter alia at 1500, 1470, 1430, 1420, 1390, 1370, 1195, 1140, 1055, 730 cm-1. Odour and flavour: earthy, fruity (cassis), sulphur-like, vegetable-like (celery).

reactant | dimethyldisulphide | CSSC | C2H6S2
reactant | 1-(2-thiazolyl)-2-methylpropyl-mercaptan | S1C(=NC=C1)C(C(C)C)S | C7H11NS2
product | [1-(2-thiazolyl)-2-methylpropyl]-methyl-disulphide | S1C(=NC=C1)C(C(C)C)SSC | C8H13NS3
